US03982011
4-(3-Cyclopentylpropionylamino)-benzoic acid was prepared as described in Example 3 from 9.63 g (0.07 mol) of p-aminobenzoic acid and 12.4 g (0.077 mol) of 3-cyclopentylpropionyl chloride.

reactant | p-aminobenzoic acid | 0.07 mol, 9.63 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 3-cyclopentylpropionyl chloride | 0.077 mol, 12.4 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | 4-(3-Cyclopentylpropionylamino)-benzoic acid | C1(CCCC1)CCC(=O)NC1=CC=C(C(=O)O)C=C1 | C15H19NO3
